### PR TITLE
feat: Flattening operation on OmegaSequence

### PR DESCRIPTION
**Pull request by ctchou**
`ωSequence.flatten` is analogous to `List.flatten`: it concatenates an infinite sequence of (finite) lists to form an infinite sequence.  However, it is unlike `List.flatten` in several aspects:
1. Its definition requires a (rather long) digression into the notion of "segment" (see Cslib/Foundations/Data/Nat/Segment.lean).  I wish there were an easier definition, but I can't think of any.  It would have been great if we could turn the theorem `flatten_cons` into a co-inductive definition, but Lean doesn't support such definitions now.
2. In order to simplify the definition, I assume the ground type of the infinite sequences is inhabited.  I think this assumption is justified, because `ωSequence A` is empty anyway if `A` is empty.  (This is different from `List A`, which always contains the empty list even if `A` is empty.). This assumption allows us to use `List.getElem!` instead of having to carry in-bound proofs around.
3. In fact, for `ls.flatten` to make proper sense, we will consistently assume that all lists in `ls` are nonempty everywhere `flatten` is used.  The current intended application of `flatten` is to define the omega-power of a language (of finite words) in a manner analogous to how the Kleene star is defined using `List.flatten`.

### CODE REVIEW

**Comment by ctchou** [comment]
Add Cslib namespace.

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+Copyright (c) 2025 Ching-Tsun Chou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ching-Tsun Chou
+-/
+
+import Mathlib.Algebra.Order.Sub.Basic
+import Mathlib.Data.Nat.Nth
+import Mathlib.Tactic
+
+namespace Cslib
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]: You currently have all these theorems in the `Cslib.Nat` namespace, but I think you probably want `namespace Nat` instead. The guildeline (which we will hopefully lint against soon) is to not add anything new at the top level, but you can still add to existing namespaces.

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 2]
```diff
@@ -0,0 +1,264 @@
...
+noncomputable def Nat.segment (φ : ℕ → ℕ) (k : ℕ) : ℕ :=
+  open scoped Classical in
+  Nat.count (· ∈ range φ) (k + 1) - 1
+
+variable {φ : ℕ → ℕ}
+
+/-- Any strictly monotonic function `φ : ℕ → ℕ` has an infinite range. -/
+theorem Nat.strict_mono_infinite (hm : StrictMono φ) :
+    (range φ).Infinite := by
+  exact infinite_range_of_injective hm.injective
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
theorem Nat.strict_mono_infinite (hm : StrictMono φ) : (range φ).Infinite :=
  infinite_range_of_injective hm.injective
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 3]
```diff
@@ -0,0 +1,264 @@
...
+
+/-- Any infinite suset of `ℕ` is the range of a strictly monotonic function. -/
+theorem Nat.infinite_strict_mono {ns : Set ℕ} (h : ns.Infinite) :
+    ∃ φ : ℕ → ℕ, StrictMono φ ∧ range φ = ns := by
+  use Nat.nth (· ∈ ns) ; constructor
+  · exact Nat.nth_strictMono h
+  · exact Nat.range_nth_of_infinite h
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
theorem Nat.infinite_strict_mono {ns : Set ℕ} (h : ns.Infinite) :
    ∃ φ : ℕ → ℕ, StrictMono φ ∧ range φ = ns :=
  ⟨Nat.nth (· ∈ ns), Nat.nth_strictMono h, Nat.range_nth_of_infinite h⟩ 
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+
+/-- For a strictly monotonic function `φ : ℕ → ℕ`, `φ n` is exactly the n-th
+element of the range of `φ`. -/
+theorem Nat.nth_of_strict_mono (hm : StrictMono φ) (n : ℕ) :
+    φ n = Nat.nth (· ∈ range φ) n := by
+  rw [← Nat.nth_comp_of_strictMono hm (by simp)]
+  · simp
+  intro hf ; exfalso
+  have : (range φ).Infinite := strict_mono_infinite hm
+  exact absurd hf this
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
  have (hf : (range φ).Finite) : False := hf.not_infinite (strict_mono_infinite hm)
  rw [←Nat.nth_comp_of_strictMono hm] <;> first | grind | simp
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 5]
```diff
@@ -0,0 +1,264 @@
...
+open scoped Classical in
+/-- If `φ 0 = 0`, then `0` is below any `n` not in the range of `φ`. -/
+theorem Nat.count_notin_range_pos (h0 : φ 0 = 0) (n : ℕ) (hn : n ∉ range φ) :
+    Nat.count (· ∈ range φ) n > 0 := by
+  have h0' : 0 ∈ range φ := by use 0
+  have h1 : n ≠ 0 := by rintro ⟨rfl⟩ ; contradiction
+  have h2 : 1 ≤ n := by omega
+  have h3 := Nat.count_monotone (· ∈ range φ) h2
+  simp only [Nat.count_succ, Nat.count_zero, h0', ↓reduceIte, zero_add, gt_iff_lt] at h3 ⊢
+  omega
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
  have := Nat.count_monotone (· ∈ range φ) (show 1 ≤ n by grind)
  grind
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 6]
```diff
@@ -0,0 +1,264 @@
...
+
+open scoped Classical in
+/-- For a strictly monotonic function `φ : ℕ → ℕ`, the segment of `φ k` is `k`. -/
+theorem Nat.segment_idem (hm : StrictMono φ) (k : ℕ) :
+    segment φ (φ k) = k := by
+  have h1 : Nat.count (· ∈ range φ) (φ k + 1) = Nat.count (· ∈ range φ) (φ k) + 1 := by
+    apply Nat.count_succ_eq_succ_count ; simp
+  rw [segment, h1, Nat.add_one_sub_one, nth_of_strict_mono hm]
+  have h_eq := Nat.count_nth_of_infinite (p := (· ∈ range φ)) <| strict_mono_infinite hm
+  rw [h_eq]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
theorem Nat.segment_idem (hm : StrictMono φ) (k : ℕ) : segment φ (φ k) = k := by
  have := Nat.count_nth_of_infinite (p := (· ∈ range φ)) <| strict_mono_infinite hm
  have := nth_of_strict_mono hm
  grind [segment]
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 7]
```diff
@@ -0,0 +1,264 @@
...
+  · have h1 : Nat.count (· ∈ range φ) (k + 1) = Nat.count (· ∈ range φ) k + 1 := by
+      exact Nat.count_succ_eq_succ_count h_k
+    rw [h1, Nat.add_one_sub_one, Nat.nth_count h_k]
+  · have h2 : Nat.count (· ∈ range φ) (k + 1) = Nat.count (· ∈ range φ) k := by
+      exact Nat.count_succ_eq_count h_k
+    rw [h2]
+    suffices _ : Nat.nth (· ∈ range φ) (Nat.count (· ∈ range φ) k - 1) < k by omega
+    apply Nat.nth_lt_of_lt_count
+    have : Nat.count (· ∈ range φ) k > 0 := by exact count_notin_range_pos h0 k h_k
+    omega
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]: More can probably be done here, but this is a bit better.
```suggestion
  · simp_all [Nat.count_succ_eq_succ_count]
  · have : Nat.count (· ∈ range φ) k > 0 := count_notin_range_pos h0 k h_k
    have h2 : Nat.count (· ∈ range φ) (k + 1) = Nat.count (· ∈ range φ) k := 
      Nat.count_succ_eq_count h_k
    rw [h2]
    suffices _ : Nat.nth (· ∈ range φ) (Nat.count (· ∈ range φ) k - 1) < k by omega
    apply Nat.nth_lt_of_lt_count
    omega
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 8]
```diff
@@ -0,0 +1,264 @@
...
+
+open Function Set
+
+/-!
+Given a strictly monotonic function `φ : ℕ → ℕ` and `k : ℕ` with `k ≥ ϕ 0`,
+`Nat.segment φ k` is the unique `m : ℕ` such that `φ m ≤ k < φ (k + 1)`.
+`Nat.segment φ k` is defined to be 0 for `k < ϕ 0`.
+This file defines `Nat.segment` and proves various properties aboout it.
+-/
+noncomputable def Nat.segment (φ : ℕ → ℕ) (k : ℕ) : ℕ :=
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean:20]: My further suggestions assume this annotation.
```suggestion
@[scoped grind]
noncomputable def Nat.segment (φ : ℕ → ℕ) (k : ℕ) : ℕ :=
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 9]
```diff
@@ -0,0 +1,264 @@
...
+  specialize h_ind (by omega) (by omega) (by omega) (by omega)
+  have h1 : Nat.count (· ∈ range φ) (j + 1 + φ m + 1) = Nat.count (· ∈ range φ) (j + 1 + φ m) := by
+    apply Nat.count_succ_eq_count
+    apply strict_mono_range_gap hm (show φ m < j + 1 + φ m by omega) ; omega
+  have h2 : Nat.count (· ∈ range φ) (j + 1 + φ m + 1 + 1) =
+    Nat.count (· ∈ range φ) (j + 1 + φ m + 1) := by
+    apply Nat.count_succ_eq_count
+    apply strict_mono_range_gap hm (show φ m < j + 1 + φ m + 1 by omega) ; omega
+  rw [segment, (show j + «φ» m + 1 = j + 1 + φ m by omega), h1] at h_ind
+  rw [segment, h2, h1, h_ind]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
/-- For a strictly monotonic function `φ : ℕ → ℕ`, all `k` satisfying `φ m ≤ k < φ (m + 1)`
has `segment φ k = m`. -/
theorem Nat.segment_range_val (hm : StrictMono φ) {m k : ℕ}
    (hl : φ m ≤ k) (hu : k < φ (m + 1)) : segment φ k = m := by
  classical
  obtain (rfl | hu') := show φ m = k ∨ φ m < k by omega
  · exact segment_idem hm m
  · obtain ⟨j, h_j, rfl⟩ : ∃ j < φ (m + 1) - φ m - 1, k = j + φ m + 1 := ⟨k - φ m - 1, by omega⟩
    induction j
    case zero =>
      have : Nat.count (· ∈ range φ) (φ m + 1 + 1) = Nat.count (· ∈ range φ) (φ m + 1) := by
        have := strict_mono_range_gap hm (show φ m < φ m + 1 by grind)
        grind
      have := nth_of_strict_mono hm m
      grind [Nat.count_nth_of_infinite, strict_mono_infinite]
    case succ j _ =>
      have := strict_mono_range_gap hm (show φ m < j + 1 + φ m     by grind)
      have := strict_mono_range_gap hm (show φ m < j + 1 + φ m + 1 by grind)
      grind
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 10]
```diff
@@ -0,0 +1,264 @@
...
+    · omega
+    · use i ; omega
+  · apply injOn_of_injective ; intro i j ; grind
+  · intro n ; simp only [mem_range, Finset.coe_filter, Finset.mem_range, mem_setOf_eq, mem_image]
+    rintro ⟨h_n, i, rfl⟩
+    have := StrictMono.monotone hm <| zero_le i
+    use (φ i - φ 0) ; constructorm* _ ∧ _
+    · omega
+    · use i
+    · omega
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
theorem Nat.segment'_eq_segment (hm : StrictMono φ) :
    segment' φ = segment φ := by
  ext k
  unfold segment'
  rcases (show k < φ 0 ∨ k ≥ φ 0 by omega) with h_k | h_k
  · have : k - φ 0 = 0 := by grind
    grind [segment_pre_zero]
  · unfold segment
    simp only [Nat.count_eq_card_filter_range]
    suffices h : ∃ f, BijOn f
        ({x ∈ Finset.range (k - φ 0 + 1) | x ∈ range fun x => φ x - φ 0}).toSet
        ({x ∈ Finset.range (k + 1) | x ∈ range φ}).toSet by
      obtain ⟨f, h_bij⟩ := h
      congr 1
      exact BijOn.finsetCard_eq f h_bij
    use (fun n ↦ n + φ 0)
    unfold BijOn
    refine ⟨?_, by grind [Injective, injOn_of_injective], ?_⟩ <;>
    ( intro n
      simp only [mem_range, Finset.coe_filter, Finset.mem_range, mem_setOf_eq, mem_image]
      rintro ⟨_, i, _⟩
      have := StrictMono.monotone hm <| zero_le i ) <;>
    [refine ⟨?_, i, ?_⟩; refine ⟨φ i - φ 0, ⟨?_, i, ?_⟩, ?_⟩] <;>
    grind
```

File: Cslib/Foundations/Data/Nat/Segment.lean [hunk 11]
```diff
@@ -0,0 +1,264 @@
...
+
+/-- For a strictly monotonic function `φ : ℕ → ℕ`, `segment φ k = 0` for all `k ≤ φ 0`. -/
+theorem Nat.segment_zero' (hm : StrictMono φ) {k : ℕ} (h : k ≤ φ 0) :
+    segment φ k = 0 := by
+  rw [← segment'_eq_segment hm, segment', (show k - φ 0 = 0 by omega)]
+  exact segment_zero (base_zero_strict_mono hm) (base_zero_shift φ)
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Nat/Segment.lean]:
```suggestion
  grind
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 12]
```diff
@@ -0,0 +1,150 @@
...
+@[simp, scoped grind =]
+theorem cumLen_zero {ls : ωSequence (List α)} :
+    ls.cumLen 0 = 0 :=
+  rfl
+
+theorem cumLen_succ (ls : ωSequence (List α)) (k : ℕ) :
+    ls.cumLen (k + 1) = ls.cumLen k + (ls k).length :=
+  rfl
+
+theorem cumLen_1plus_drop (ls : ωSequence (List α)) (k : ℕ) :
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Maybe a subscript instead and call this `cumLen₁_plus_drop`?

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 13]
```diff
@@ -0,0 +1,150 @@
...
+  | k + 1 => ls.cumLen k + (ls k).length
+
+/- The following are some helper theorems about `ls.cumLen`. -/
+
+@[simp, scoped grind =]
+theorem cumLen_zero {ls : ωSequence (List α)} :
+    ls.cumLen 0 = 0 :=
+  rfl
+
+theorem cumLen_succ (ls : ωSequence (List α)) (k : ℕ) :
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean:41]: This can be `grind` annotated too? Further suggestions will assume this.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 14]
```diff
@@ -0,0 +1,150 @@
...
+    ls.cumLen (k + 1) = ls.cumLen k + (ls k).length :=
+  rfl
+
+theorem cumLen_1plus_drop (ls : ωSequence (List α)) (k : ℕ) :
+    ls.cumLen (1 + k) = (ls 0).length + (ls.drop 1).cumLen k := by
+  induction k
+  case zero => simp [cumLen_zero, cumLen_succ]
+  case succ k h_ind =>
+  rw [← add_assoc, cumLen_succ, h_ind, cumLen_succ, add_assoc]
+  congr 2 ; rw [get_drop]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]:
```suggestion
  induction k <;> grind
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 15]
```diff
@@ -0,0 +1,150 @@
...
+
+/-- If all lists in `ls` are nonempty, then `ls.cumLen` is strictly monotonic. -/
+theorem cumLen_strict_mono {ls : ωSequence (List α)} (h_ls : ∀ k, (ls k).length > 0) :
+    StrictMono ls.cumLen := by
+  apply strictMono_nat_of_lt_succ
+  intro k ; have := h_ls k
+  rw [cumLen_succ] ; omega
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]:
```suggestion
  grind [strictMono_nat_of_lt_succ]
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 16]
```diff
@@ -0,0 +1,150 @@
...
+    use (ls.cumLen i - (ls 0).length)
+    simp (disch := omega) only [Nat.sub_add_cancel, and_true] ; constructor
+    · omega
+    · use (i - 1)
+      have := cumLen_1plus_drop ls (i - 1)
+      have : 1 + (i - 1) = i := by
+        suffices 0 < i by omega
+        rw [← StrictMono.lt_iff_lt (cumLen_strict_mono h_ls), cumLen_zero]
+        grind
+      grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: This is harder to simplify, but here's what I came up with:

```suggestion
  have h1 : {x ∈ Finset.range (n + 1) | x ∈ Set.range ls.cumLen} = insert 0
      {x ∈ Finset.range (n + 1) | x ∈ Set.range ls.cumLen ∧ (ls 0).length ≤ x} := by
    ext k
    simp only [Set.mem_range, Finset.mem_filter, Finset.mem_range, Finset.mem_insert]
    constructor
    · rintro ⟨h_k, i, _⟩
      simp only [h_k, true_and, or_iff_not_imp_left]
      intro _
      suffices _ : i = 1 + (i - 1) by grind [cumLen_1plus_drop]
      grind
    · rintro (_ | _)
      · refine ⟨?_, 0, ?_⟩ <;> grind
      · grind
  have h2 : 0 ∉ {x ∈ Finset.range (n + 1) | x ∈ Set.range ls.cumLen ∧ (ls 0).length ≤ x} := by
    grind
  rw [h1, Finset.card_insert_of_notMem h2, Nat.add_one_sub_one]
  symm
  apply Set.BijOn.finsetCard_eq (fun n ↦ n + (ls 0).length)
  refine ⟨?_, by grind [Injective, Set.injOn_of_injective], ?_⟩ <;>
  ( intro _  
    simp only [Set.mem_range, Finset.coe_filter, Finset.mem_range, Set.mem_setOf_eq,
      le_add_iff_nonneg_left, _root_.zero_le, and_true] )
  · rintro ⟨_, i, _⟩
    refine ⟨?_, 1 + i, ?_⟩ <;> grind [cumLen_1plus_drop]
  · rintro ⟨_, ⟨i, _⟩, _⟩
    have := cumLen_1plus_drop ls (i - 1)
    refine ⟨ls.cumLen i - (ls 0).length, ⟨?_, i - 1, ?_⟩, ?_⟩ <;> grind
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 17]
```diff
@@ -0,0 +1,150 @@
...
+
+/-- `ls.flatten` equals the concatenation of `ls.head` and `ls.tail.flatten`. -/
+@[simp, scoped grind =]
+theorem flatten_cons [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k, (ls k).length > 0) :
+    ls.head ++ω ls.tail.flatten = ls.flatten := by
+  ext n ; rw [flatten_def, head, tail_eq_drop]
+  rcases (show n < (ls 0).length ∨ n ≥ (ls 0).length by omega) with h_n | h_n
+  · simp (disch := omega) [get_append_left, cumLen_segment_zero, cumLen_zero]
+  · simp (disch := omega) [get_append_right', flatten_def, cumLen_segment_1plus, cumLen_1plus_drop]
+    congr 2 ; omega
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]:
```suggestion
    grind
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 18]
```diff
@@ -0,0 +1,150 @@
...
+  revert ls
+  induction n
+  case zero => simp
+  case succ n h_ind =>
+  intro ls h_ls
+  specialize h_ind (ls := ls.drop 1) (by grind)
+  rw [drop_drop, add_comm] at h_ind
+  rw [take_succ, List.flatten_cons, append_append_ωSequence, tail_eq_drop,
+    h_ind, ← tail_eq_drop]
+  apply flatten_cons h_ls
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]:
```suggestion
  induction n generalizing ls <;> grind [_=_ tail_eq_drop, take_succ]
```

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: That's great.  I'll remove the additional Cslib namespace.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Thanks!  I didn't know the "|" syntax.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 14 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 15 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 16 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: I incorporated all the structural changes, though I kept the `intro` variable names and the uses of `rfl`.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 18 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.  The `_ = _` turns out to be unnecessary.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 17 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.

**Comment by ctchou** [comment]
I've incorporated @chenson2018's comments and did a bit more golfing.  Thanks for pointing out the `refine` technique, which is very handy.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Are you sure the above works?  It doesn't work for me.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 13 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean:41]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 12 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: I didn't mean a subscript.  `1plus` refers to the `1 + k` in the LHS of the equation.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean:20]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 10 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: I incorporated most of the changes above.  But I find the code following `unfold BijOn` a bit too clever.  I prefer to keep the proofs of the three conjuncts of `BijOn` separate.  Also, the `unfold BijOn` is not necessary and the `use` above it can be absorbed into the `refine` below it.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 9 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/Nat/Segment.lean]: You need to add the `grind` attribute on `Nat.segment`, see my first unresolved comment.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 11 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Fixed.

**Comment by ctchou** [comment]
All of @chenson2018's comments have been incorporated.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 12 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Oh I see. Can you use the preferred Mathlib convention of `cumLen_one_add_drop` then?

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 10 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/Nat/Segment.lean]: That is understandable, no objection.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 12 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.

File: Cslib/Foundations/Data/Nat/Segment.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Nat/Segment.lean]: Yeah, I realized that later.  It's now fixed.

**Comment by ctchou** [comment]
I fixed the "1plus" comment as well.

**Comment by chenson2018** [comment]
There is a lint error (see CI), otherwise I am done reviewing.

**Comment by ctchou** [comment]
There is a line which is too long.  I've pushed a patch to fix it.

**Review by chenson2018 — APPROVED** [review]

**Comment by chenson2018** [comment]
One small comment on review procedure. If possible, please avoid force pushing. It adds some friction for the reviewer and should not be necessary anyway.

**Comment by ctchou** [comment]
OK.  I keep force-pushing because I'm also using Github as a backup service.  So I keep committing and pushing small changes to it and later use "git rebase -I" to fix up the commits.  In the future I'll push intermediate steps to a non-PR branch and only reviewable changes to the PR branch.

**Comment by chenson2018** [comment]
I have done something similar previously. Don't feel you have to keep the review branch completely pristine, I understand it can be a bit of a hassle.
